* AD8642 SPICE Macro-model 
* Description: Amplifier
* Generic Desc: 5/26V, JFET, OP, RRO, S SPLY, 2X
* Developed by: ADSJ-HH, Soufiane Bendaoud, ADSiV 
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (12/2010) - Switched to NFETs, Corrected Zout, Vdo, GBW, Ibias    
* 1.0 (12/2004) - Soufiane Bendaoud, ADSiV apps 
* Copyright 2004, 2008, 2010, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: 
*  CAUTION!!  To aid in convergence, most Spice simulators add a
*  conductance on every node to insure that no node is floating.
*  This is GMIN, and the default value is usually 1E-12.  To properly 
*  simulate the low input bias current and low current noise, the 
*  Spice simulator options have to be set to the following:
*  .OPTIONS GMIN=0.01p
*  .OPTIONS ABSTOL=0.01pA
*
* Not Modeled:
*    
* Parameters modeled include: 
* This model simulates typical values at Vs=±13V
*
* END Notes
*
* Node assignments
*                non-inverting input
*                |   inverting input
*                |   | positive supply
*                |   |    |  negative supply
*                |   |    |    |  output
*                |   |    |    |    |
.SUBCKT AD8642   1   2   99   50   30
*
* INPUT STAGE
*
CIN  1   2    4.5E-12
CCM1  1 50    3E-12
CCM2  2 50    3E-12
J1   5   7   4  JX;  DGS
J2   6   2   4  JX;
R3   99  5    1.500E+04
R4   99  6    1.500E+04
CCOMP 5 6     6.35E-13
I1   4  50    4.000E-05
Vclamp 99 101 3.8
Dclamp 4 101 DY
IOS  1   2     0.25E-12
EOS  7  1    POLY(3) (142,0) (73,98) (22,98) 70E-6  1  1  1
GB1  2  50    POLY(3) (4,2) (5,2) (50,2) -0.2E-12 2E-14 2E-14 2E-14
GB2  7  50    POLY(3) (4,7) (6,7) (50,7) -0.3E-12 1E-14 1E-14 -0.2E-14
*
EREF 98 0 24 0   1
R14  24 99     500E3
R15  24 50     500E3
*
* SECOND STAGE 
G1   9  98    (6,5)  5.022E-04
R105 9  98     1.0E+06
D1   9   8    DX
V2   8  98    0.085;  
D2   10  9    DX
V3   10 98    -0.065;
RZ  451 453  1.95E+02
CZ  453   9  1.33E-10
*
* POLE AT 15 MHZ
*
R13  18 98   1E3
C9   18 98   1.75E-16; -11
G105   (18,98) (98,9)  1E-3
*
* COMMON-MODE GAIN NETWORK 
*
E1   72 98     POLY(2) (1 98) (2 98)  0  3.132E-03 3.132E-03
R10  72 73     7.958E+01
R20  73 98     6.366E-02
C10  72 73     1.000E-06
*
* PSRR
*
EPSY 98 21 POLY(1) (99,50) 3.646  1.402E-01
RPS1 21 22 4.421E+05
RPS2 22 98 1.989E+01
CPS1 21 22 1.000E-09
*
* VOLTAGE NOISE GENERATOR
*
VN1  141 0    DC 2
DN1  141 142  DEN
DN2  142 143  DEN
VN2  0 143    DC 2
*
* OUTPUT STAGE
*
Q3   451 41 99 POUT
RB1  40 41 1.5E+3
EB1  99 40 POLY(1) (98, 18) 6.173E-01  1E-0;  
Q4   451 43 50 NOUT
RB2  42 43 2.0E+3
EB2  42 50 POLY(1) (18, 98) 6.08E-01  1E-0; 
Lout 30 451  10E-14
*
GSY  99 50 POLY(1) (99 50) 81.13E-6 1.632E-06
*
* MODELS
*
.MODEL QP PNP(BF=80, IS=1.00E-16, VA=130)
.MODEL POUT PNP (BF=70,IS=2.8E-15,VA=130);
.MODEL NOUT NPN (BF=120,IS=3.2E-15,VA=200); 
.MODEL JX NJF(BETA=1.400E-03  VTO=-1.00  IS=2E-18 RD=1
+ RS=1 CGD=3E-12 CGS=3E-12 lambda=7.0E-03)
.MODEL DX   D(IS=1E-15 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-15 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=7.63E4, KF=9.665E-15 AF=1)
.MODEL DIN  D(IS=1E-12 RS=12090 KF=0 AF=1)
*
.ENDS AD8642
*
$




